2139-10-27 07:50:00 Physician Resident Progress Note
Chief Complaint: dyspnea and weakness
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2139-10-27**] 04:30 AM
 ARTERIAL LINE - START [**2139-10-27**] 05:00 AM
   - put on CPAP. 2L flow; seemed to do poorly with desats, continued CO2
   retention.
   - ABG 7.26/80/55 on these settings.
   - NIF -80 in unit, awaiting VC.
   - Placed on bipap 10/5, 40% fiO2; --> 7.32/73/122.
   - A line placed.
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 104 (74 - 126) bpm
   BP: 133/82(102) {124/80(96) - 133/82(102)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  240 mL
   PO:
                  240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (362 - 362) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.32/73.[**Numeric Identifier 607**]/122/38/8
   Ve: 3.4 L/min
   PaO2 / FiO2: 349
   Physical Examination
   General: Slightly anxious, not able to speak in full sentances without
   tachypnea.
   HEENT: Sclera anicteric, MMM.
   Chest: Clear bilaterally, fair air movement
   Heart: Slightly tachy, no murmur appreciated
   Abdomen: soft NT/ND +BS
   Extrem: L UE (and LLE to lesser degree) cooler to touch compared to R
   side (present prior to Aline placement)
   Neuro: Peripheral strength intact [**4-27**], ?slight LE hyperreflexia, A/O x3
   Labs / Radiology
   353 K/uL
   11.1 g/dL
   132 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.1 mEq/L
   7 mg/dL
   106 mEq/L
   145 mEq/L
   36.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2139-10-27**]  03:20 AM
                             [**2139-10-27**]  04:36 AM
                             [**2139-10-27**]  05:25 AM
   WBC
   6.5
   Hct
   36.7
   Plt
   353
   Cr
   0.5
   TCO2
   38
   39
   Glucose
   132
   Other labs: Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Microbiology: none
   Assessment and Plan
   54 F with obesity, myasthenia [**Last Name (un) 3383**], anxiety, tracheomalacia s/p
   tracheal stenting 10 days ago; admit with generalized weakness and
   worsening dyspnea.
  Dyspnea.  Differential includes muscle weakness (from myasthenia or
   other cause), structural abnormalities/TBM, anxiety, PE (ruled out),
   CAD/ischemia (no ecg changes, not c/w history).  No fever,
   leukocytosis, clear infiltrate to suggest pneumonia as cause.  Mild
   hypoxemia and respiratory acidosis (?acute on chronic, vs. worsening
   bicarb from metabolic source).  Patient retains CO2 at baseline.
   Atelectasis on chest CT.  Tracheal stent patent per CT evaluation.
   Aline placed overnight for continued oxygenation/ventilation
   difficulties.
   -          Try patient off biPAP this AM, ABG prn
   -          Consult IP today
   -          Anxiety control
   -          Management/workup of increased ostomy output as a cause of
   decreased bicarb relative to likely baseline.  Urine lytes to check
   urinary gap.
   -          Continue to monitor for muscular weakness with NIFs and VCs
 NIFs consistently -80; VC of only ?300ml?
   -          Nebs prn (trying to minimize, use xopenex with tachycardia)
   -          Pneumonia coverage if more evidence of infection (patient
   also immunosuppressed host).
   # Generalized weakness.  In patient with known MG.  Notes neck muscle
   weakness and breathing issues as above.  No notable ocular or
   pharyngeal symptoms.
   -          appreciate neuro following; per fellow should be called out
   to neuro once able to leave unit.
   -          ?IVIG today (2g/kg divided over 5 days)
   -          Continue prednisone, mestinon, cellcept.  Bactrim ppx.
   -          No clear dysphagia, but reports some difficulty with pills;
   can hold fosamax for now, consider s&s if concerns of aspiration.
   -          Avoid BB, CCB, quinolones due to potential exacerbation of
   MG.
   #   ANXIETY. Severe impairments from anxiety.  In process of getting
   set up with therapist as outpatient.  On SSRI and benzos (though does
   not have any at home
 not currently taking any)
 very minimal BZ
   requirement and has had side effects from lorazepam in past.
   -          Alprazolam prn
   -          Continue SSRI
   -          SW consult for support/coping
   -          psych consult for anxiety management
   # Tachycardia.  Sinus, unchanged ECG.  Reports this is her baseline;
   past notes document anywhere from 80-130.  Improved into 80s once on
   bipap and less anxious.  ?anxiety related.  No suspicion for
   withdrawal, appears euvolemic, PE ruled out.  Up to 140s with minimal
   exertion, but maintaining 80s at rest.
   -                continue to monitor rates
   -
 Urinary incontinence.  Chronic problem with recent worsening.
   Unclear if this could be related to underlying neuromuscular disease.
   -          f/u U/A and culture
   -          MRI Cspine at some point to rule out trauma from procedures
   per neuro recs.
   #  Diarrhea/fecal incontinence. Also with subacute/chronic fecal
   incontinence.  Diarrhea attributed to mestinon in past.
   -          check c.diff, though low suspicion with lack of
   fever/leukocytosis or infectious picture, but possible that she was
   exposed to antibiotics during recent admits.
   -          chronic diarrhea workup
   -          consider L spine MRI, though incontinence chronic; seems
   less likely.
   # DM.  Also on steroids.
   -          continue ISS and DM diet.
   # GERD. Continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-27**] 12:47 AM
   Arterial Line - [**2139-10-27**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2139-10-28 07:48:00 Physician Resident Progress Note
Chief Complaint: weakness and dyspnea
   24 Hour Events:
   - refused BIPAP overnight; pCO2 rose and pH fell during evening
   (7.30/77/82)
   - IP bronching patient this morning
 stent appears patent.
   - Neurology would like her to start treatment with routine IVIG while
   inpatient
   - Sputum culture showed:
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-10-27**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-28**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 77 (71 - 127) bpm
   BP: 139/74(98) {126/68(93) - 182/8,894(138)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,120 mL
                  PO:
                                                                  1,120 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    300 mL
   Urine:
                                                                  1,250 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (437 - 437) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: 7.30/77/81.[**Numeric Identifier 253**]/34/7
   NIF: -80 cmH2O
   Ve: 6.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General: Less anxious today (following bronch and sedation); breathing
   comfortably.
   HEENT: Sclera anicteric, MMM.
   Chest: Clear bilaterally, fair air movement, +anterior rhonchi
   Heart: Tachy, no murmur appreciated
   Abdomen: soft NT/ND +BS
   Extrem: no edema
   Labs / Radiology
   387 K/uL
   12.0 g/dL
   154 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   10 mg/dL
   100 mEq/L
   140 mEq/L
   38.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2139-10-27**]  03:20 AM
                             [**2139-10-27**]  04:36 AM
                             [**2139-10-27**]  05:25 AM
                             [**2139-10-27**]  09:49 AM
                             [**2139-10-27**]  05:47 PM
                             [**2139-10-27**]  08:30 PM
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
   WBC
   6.5
   10.8
   Hct
   36.7
   38.6
   Plt
   353
   387
   Cr
   0.5
   0.6
   TCO2
   38
   39
   39
   34
   37
   39
   Glucose
   132
   154
   Other labs: ALT / AST:27/24, Alk Phos / T Bili:56/0.2, Albumin:3.8
   g/dL, LDH:246 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Microbiology: Sputum: GRAM STAIN (Final [**2139-10-27**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   culture pending.
   Assessment and Plan
   54 F with obesity, myasthenia [**Last Name (un) 3383**], anxiety, tracheomalacia s/p
   tracheal stenting 10 days ago; admit with generalized weakness and
   worsening dyspnea.
  Dyspnea.  Differential has included muscle weakness (from myasthenia
   or other cause), structural abnormalities/TBM, anxiety, metabolic
   acidosis (on top of baseline alkalosis) likely from diarrhea losses
   (negative urinary gap).  Patient retains CO2 at baseline, most notable
   at nighttime and supposed to be on nighttime bipap.
   -          IP to bronch today
   -          Anxiety control
   -          Workup of diarrhea as below.
   -          Continue to monitor for muscular weakness with NIFs and VCs
 NIFs consistently -80; though VC low (500ish today), likely
   reflective of effort.
   # Generalized weakness/myasthenia [**Last Name (un) 3383**].  In patient with known MG.
   Notes neck muscle weakness and breathing issues as above.  No notable
   ocular or pharyngeal symptoms.
   -          appreciate neuro following; per fellow should be called out
   to neuro once able to leave unit.
   -          IVIG this admission; will order today
   -          Continue prednisone, mestinon, cellcept.  Bactrim ppx.
   -          No clear dysphagia, but reports some difficulty with pills;
   can hold fosamax for now, consider s&s if concerns of aspiration.
   -          Avoid BB, CCB, quinolones due to potential exacerbation of
   MG.
   #   ANXIETY. Severe impairments from anxiety.  In process of getting
   set up with therapist as outpatient.  On SSRI and benzos (though not
   taking BZs).
   -          Will try addition of clonazepam at low dose.
   -          Continue SSRI
   -          SW consult for support/coping
   -          psych consult for anxiety management, recs pending.
   # Tachycardia.  Sinus, unchanged ECG.  Reports this is her baseline;
   past notes document anywhere from 80-130.  Improved into 80s once on
   bipap and less anxious.  ?anxiety related.  No suspicion for
   withdrawal, appears euvolemic, PE ruled out.  Up to 140s with minimal
   exertion, but maintaining 80s at rest.
   -                continue to monitor rates
   -                will check into ?autonomic dysfunction related to MG?
 Urinary incontinence.  Chronic problem with recent worsening.
   Unclear if this could be related to underlying neuromuscular disease.
   -          f/u urine culture
   -          MRI Cspine at some point to rule out trauma from procedures
   per neuro recs.
   #  Diarrhea/fecal incontinence. Also with subacute/chronic fecal
   incontinence.  Diarrhea attributed to mestinon in past.
   -          chronic diarrhea workup pending
   -          consider L spine MRI, though incontinence chronic; seems
   less likely.
   # DM.  Also on steroids.
   -          continue ISS and DM diet.
   # GERD. Continue PPI
   ICU Care
   Nutrition:
   Comments: regular DM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-27**] 12:47 AM
   Arterial Line - [**2139-10-27**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: Likely to floor on neurology service per neuro fellow.

2139-10-28 08:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-10-27**] 08:16 PM
   Pantoprazole (Protonix) - [**2139-10-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-28**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 79 (71 - 127) bpm
   BP: 146/81(105) {126/68(93) - 182/111(138)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,120 mL
                                                                     50 mL
   PO:
                                                                  1,120 mL
                                                                     50 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    320 mL
   Urine:
                                                                  1,250 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (437 - 437) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 96%
   ABG: 7.30/77/81.[**Numeric Identifier 253**]/34/7
   NIF: -80 cmH2O
   Ve: 6.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : rigt base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   387 K/uL
   154 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   10 mg/dL
   100 mEq/L
   140 mEq/L
   38.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2139-10-27**]  03:20 AM
                             [**2139-10-27**]  04:36 AM
                             [**2139-10-27**]  05:25 AM
                             [**2139-10-27**]  09:49 AM
                             [**2139-10-27**]  05:47 PM
                             [**2139-10-27**]  08:30 PM
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
   WBC
   6.5
   10.8
   Hct
   36.7
   38.6
   Plt
   353
   387
   Cr
   0.5
   0.6
   TCO2
   38
   39
   39
   34
   37
   39
   Glucose
   132
   154
   Other labs: ALT / AST:27/24, Alk Phos / T Bili:56/0.2, Albumin:3.8
   g/dL, LDH:246 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   54 yo female with hx of MG s/p stenting for TBM now with progressive
   DOE and increasing resp acidosis with near normal NIF values in the ED
   and no clear precipitant of
   her acute decline
   Respiratory failure:  at baseline she appears to have progressive
   respiratory acidosis which is reasonably well compensated. This is
   likely from the progressive effects of the MG. At present her picture
   is not clearly consistent with an acute worsening of her MG (given
   normal NIF) nor does there appear to be an infectious component. It may
   he that she is hyperventilating with shallow tidal volume and
   effectively increasing her dead space ventilation as a function of
   anxiety which also worsens her pre-existing TBM. In addition she has
   some mucus plugging which is also increasing her dead space
   ventilation. Notably the PE portion of her CT scan from [**10-26**] was
   negative.
   - pulmonary toilet for secretion clearance, Incentive spirometry
   - OOB-> chair
   - intermittent BiPap to target a goal pH of >7.35. Goal of O2 sats.
   - no indication for Abx although empiric Abx may be needed if no
   improvement in next 24 hours.
    Dr [**Last Name (STitle) 4834**] to decide regarding repeat bronchoscopy
   - MG care as below: serial measurements of bedside FVC
   Acid/base:  she appears to have a mild metabolic acidosis (her baseline
   HCO3 is closer to the mid 40
s). This may be from stool out put (loss
   of HCO3-)
   - urine anion gap
   - assess previous work up for her diarrhea ? mestinon related.
   MG: neuro service following.
   - Initiate IvIG dose which is due in [**1-25**] weeks now.
   - cont home dose immunosuppression (cell cept and prednisone)
   Anxiety:  psychiatry consult.
   Other issues per ICU resident note.  She has issues with urinary
   incontinence and ? cyctocele that needs operative repair. Timing of
   repair and route of anesthesia to be decided only when airway issues
   have settled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-27**] 12:47 AM
   Arterial Line - [**2139-10-27**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2139-10-29 14:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Noted to be somnolent on the floor with ptosis, received 0.25 mg
   klonipin, ABG reflective of acute on chronic respiratory acidosis
   24 Hour Events:
 BRONCHOSCOPY - At [**2139-10-28**] 09:15 AM by IP service
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes:  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough
   Neurologic: diplopia
   Flowsheet Data as of  [**2139-10-29**] 01:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 118 (67 - 132) bpm
   BP: 64/43(46) {64/43(46) - 129/84(94)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    450 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    220 mL
   Urine:
                                                                    845 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 15 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: ////
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases b/l, Diminished: dases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   387 K/uL
   154 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   10 mg/dL
   100 mEq/L
   140 mEq/L
   38.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2139-10-27**]  03:20 AM
                             [**2139-10-27**]  04:36 AM
                             [**2139-10-27**]  05:25 AM
                             [**2139-10-27**]  09:49 AM
                             [**2139-10-27**]  05:47 PM
                             [**2139-10-27**]  08:30 PM
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
                             [**2139-10-28**]  12:35 PM
   WBC
   6.5
   10.8
   Hct
   36.7
   38.6
   Plt
   353
   387
   Cr
   0.5
   0.6
   TCO2
   38
   39
   39
   34
   37
   39
   39
   Glucose
   132
   154
   Other labs: ALT / AST:27/24, Alk Phos / T Bili:56/0.2, Albumin:3.8
   g/dL, LDH:246 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: ABG:  59*1 143*1 7.10*1
   Microbiology: [**2139-10-27**] 4:18 pm SPUTUM      Source: Expectorated.
                               **FINAL REPORT [**2139-10-29**]**
      GRAM STAIN (Final [**2139-10-27**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   Assessment and Plan
   54 yo female with hx of MG s/p stenting for TBM admitted with
   progressive DOE and hypercarbic respiratory failure since her transfer
   to the floor on [**10-28**] in the setting of ptosis and diplopia, now with
   depressed mental status from hypercarbia
   Respiratory failure:  she has baseline hypercarbia with CO2 in the
   70mmHg range which is normally well compensated by pH. When she was
   initially admitted [**10-27**] we thought a part of her progressive acidosis
   was [**1-24**] non compliance with home BiPAP as well as loss of HCO3 from
   diarrhea. This current presentation is different in the sense that she
   is markedly hypercarbic with accompanynig signs of MG flare. Our plan
   will be to temporize with BiPAP with close observation for further
   decline in mental status necessitating intubation. Our hope is she will
   continue to improve with BiPaP and we can apply treatment to reverse
   the MG component. We will also look for other reversible components
   (infection etc) although recent CXR was not suggestive, will trial
   flumazenil to see if there is any component of sedation effects.
    - intermittent BiPap to target a goal pH of >7.35. Goal of O2 sats
   (she needs BiPAP at night for her OHV). Baseline Co2 is ~ 70 mmHg
   - no indication for Abx although empiric Abx may be needed if no
   improvement in next 24 hours.
   - CXR
   - MG care as below: serial measurements of bedside FVC when able
   - Placement of arterial line for CO2 monitoring
   - Flumazenil trial.
   MG: Concern with evolving neurologic exam for MG crisis. Neuro team
   following. Will receive second dose of IVIG today. Will also trial high
   dose steroids
   -          cont home dose immunosuppression (cell cept and prednisone)
   and prophylaxis
   -          Will dose IVIG per neurology (regularly scheduled dose)
   -       Solumderol 125 mg IV q 8hrs
   Anxiety: hold on further benzodiazepines for now
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-29**] 01:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  She is tenuous with easy decompensation when
   underlying COPD/ MG problems flare. We will discuss with IP staff
   regarding removal of stent if this serves as nidus for infection which
   potentially adds to work of breathing and intermittent MG flares..
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-10-30 07:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2139-10-29**] 02:30 PM
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-29**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2139-10-30**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-30**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 95 (82 - 137) bpm
   BP: 128/69(91) {108/65(81) - 144/101(157)} mmHg
   RR: 22 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,040 mL
                                                                    560 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,000 mL
   Blood products:
                                                                    840 mL
                                                                    360 mL
   Total out:
                                                                    530 mL
                                                                    740 mL
   Urine:
                                                                    530 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,510 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (320 - 595) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.24/86.[**Numeric Identifier 96**]/77.[**Numeric Identifier 96**]/36/6
   Ve: 5.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   289 K/uL
   183 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.3 mEq/L
   10 mg/dL
   100 mEq/L
   140 mEq/L
   34.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2139-10-27**]  05:47 PM
                             [**2139-10-27**]  08:30 PM
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
                             [**2139-10-28**]  12:35 PM
                             [**2139-10-29**]  02:35 PM
                             [**2139-10-29**]  02:44 PM
                             [**2139-10-29**]  06:52 PM
                             [**2139-10-30**]  04:32 AM
                             [**2139-10-30**]  05:02 AM
   WBC
   10.8
   16.9
   13.5
   Hct
   38.6
   36.5
   34.4
   Plt
   387
   322
   289
   Cr
   0.6
   0.6
   TCO2
   34
   37
   39
   39
   40
   40
   39
   Glucose
   154
   183
   Other labs: PT / PTT / INR:13.7/25.7/1.2, ALT / AST:16/15, Alk Phos / T
   Bili:54/0.1, Differential-Neuts:96.8 %, Lymph:1.6 %, Mono:1.0 %,
   Eos:0.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.2 g/dL, LDH:219 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   54 yo female with hx of MG s/p stenting for TBM admitted with
   progressive DOE and hypercarbic respiratory failure since her transfer
   to the floor on [**10-28**] in the setting of ptosis and diplopia, now with
   depressed mental status from hypercarbia
   Respiratory failure:  she has baseline hypercarbia with CO2 in the
   70mmHg range which is normally well compensated by pH. When she was
   initially admitted [**10-27**] we thought a part of her progressive aidosis
   was [**1-24**] non compliance with home BiPAP as well as loss of HCO3 from
   diarrhea. This current presentation is different in the sense that she
   is markedly hypercarbic with accompanynig signs of MG flare. Our plan
   will be to temporize with BiPAP with close observation for further
   decline in mental status necessitating intubation. Our hope is she will
   continue to improve with BiPaP and we can apply treatment to reverse
   the MG component. We will also look for other reversible components
   (infection etc) although recent CXR was not suggestive, will trial
   flumazenil to see if there is any component of sedation effects.
     - intermittent BiPap to target a goal pH of >7.35. Goal of O2 sats
   (she needs BiPAP at night for her OHV). Baseline Co2 is ~ 70 mmHg
   - no indication for Abx although empiric Abx may be needed if no
   improvement in next 24 hours.
   - CXR
   - MG care as below: serial measurements of bedside FVC when able
   - Placement of arterial line for CO2 monitoring
   - Flumazenil trial.
   MG: Concern with evolving neurologic exam for MG crisis. Neuro team
   following. Will receive second dose of IVIG today. Will also trial high
   dose steroids
   -          cont home dose immunosuppression (cell cept and prednisone)
   and prophylaxis
   -          Will dose IVIG per neurology (regularly scheduled dose)
   -       Solumderol 125 mg IV q 8hrs
    Anxiety: hold on further benzodiazepines for now
   ICU Care
   Nutrition:
   Comments: Reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-29**] 01:46 PM
   Arterial Line - [**2139-10-29**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2139-10-30 11:42:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2139-10-29**] 01:00 PM
 ARTERIAL LINE - START [**2139-10-29**] 02:30 PM
   Aline placed
   - Cipro added for Klebsiella UTI.
   - Intermittently apneic on NIPPV
   - off NIPPV for a short time to eat a small amount, tired and back on.
   - No further flumazenil
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-29**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2139-10-30**] 10:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-30**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 123 (82 - 137) bpm
   BP: 181/143(159) {108/65(81) - 181/143(159)} mmHg
   RR: 21 (11 - 41) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,040 mL
                                                                  1,100 mL
   PO:
                                                                    200 mL
                                                                    740 mL
   TF:
   IVF:
                                                                  2,000 mL
   Blood products:
                                                                    840 mL
                                                                    360 mL
   Total out:
                                                                    530 mL
                                                                  1,080 mL
   Urine:
                                                                    530 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,510 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (320 - 595) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.24/86.[**Numeric Identifier 96**]/77.[**Numeric Identifier 96**]/36/6
   NIF: -80 cmH2O
   Ve: 5.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   on NC this AM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), slightly tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: at apices
   bilat)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   289 K/uL
   10.6 g/dL
   183 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.3 mEq/L
   10 mg/dL
   100 mEq/L
   140 mEq/L
   34.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2139-10-27**]  05:47 PM
                             [**2139-10-27**]  08:30 PM
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
                             [**2139-10-28**]  12:35 PM
                             [**2139-10-29**]  02:35 PM
                             [**2139-10-29**]  02:44 PM
                             [**2139-10-29**]  06:52 PM
                             [**2139-10-30**]  04:32 AM
                             [**2139-10-30**]  05:02 AM
   WBC
   10.8
   16.9
   13.5
   Hct
   38.6
   36.5
   34.4
   Plt
   387
   322
   289
   Cr
   0.6
   0.6
   TCO2
   34
   37
   39
   39
   40
   40
   39
   Glucose
   154
   183
   Other labs: PT / PTT / INR:13.7/25.7/1.2, ALT / AST:16/15, Alk Phos / T
   Bili:54/0.1, Differential-Neuts:96.8 %, Lymph:1.6 %, Mono:1.0 %,
   Eos:0.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.2 g/dL, LDH:219 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   54 F with obesity, myasthenia [**Last Name (un) 3383**], anxiety, tracheomalacia s/p
   tracheal stenting 10 days PTA; initially admitted to MICU  with
   generalized weakness; now transfer back to MICU with dyspnea,
   significantly worsened weakness and severe hypercarbic respiratory
   failure, possible myasthenic crisis.
  Hypercarbic respiratory failure.  Differential of  muscle weakness
   (from myasthenia or other cause) vs medication effect (very small doses
   of clonazepam, but is significantly affected low doses in past.
   Received flumazenil and seemed to improve (vs. improvement from control
   of pCO2 with bipap).  Patient retains CO2 at baseline, most notable at
   nighttime and supposed to be on nighttime bipap.  Intermittent apnea
   while on bipap supports oversedation as cause; however did
tire
 after
   off bipap yesterday evening.
   -          bipap overnight; NC/FM during daytime.
   -          No benzos or sedatives; utilize other forms of anxiety
   management.
   -          Continue to monitor for muscular weakness with NIFs and VCs
 NIFs consistently -80; though VC have been low (500ish today), likely
   reflective of effort (has been able to count [**1-21**] with very poor VCs).
   -          Treatment of myasthenia below.
   -           check ABG now.
   # Myasthenia [**Last Name (un) 3383**], ?crisis.  Initially noted neck muscle weakness and
   breathing without ocular or pharyngeal symptoms.  Today with
   significant ptosis on exam and c/o diplopia earlier today, though hard
   to say if this is due to myasthenia or CO2 narcosis.
   -          appreciate neuro following.
   -          IVIG again today (3^rd dose); unclear if plasmapheresis
   offers additional benefit.
   -          Per neuro, additional steroids unlikely to be of benefit
   unless needed for non-myasthenia standpoint. Change back to baseline
   prednisone dosing.
   -          Continue mestinon, cellcept.  Bactrim ppx.
   -          Avoid BB, CCB, quinolones due to potential exacerbation of
   MG.
   # Hypotension.  SBP dropped transiently to 70s following MICU
   admission.  Unclear etiology, one liter IV NS given.  Once Aline placed
   (and since) BPs in 110s - ?true hypotension.  If true, ddx includes med
   effect, sepsis, positive pressure, losses with history of diarrhea.
   Completely resolved overnight.
   #   ANXIETY. Severe impairments from anxiety.  In process of getting
   set up with therapist as outpatient.  On SSRI; issues with benzos as
   above.  Psych consult earlier this admit.
   -          no further benzos.
   -          Continue SSRI
   # UTI: urine culture growing Klebsiella.  Course of cipro.
   # Tachycardia.  Sinus.  Reports this is her baseline; past notes
   document anywhere from 80-130.  Improved into 80s when less anxious and
   resting.  No suspicion for withdrawal, appears euvolemic, PE ruled
   out.  Up to 140s with minimal exertion, but maintaining 80s at rest.
   -                continue to monitor rates
 Urinary incontinence.  Chronic problem with recent worsening.
   Unclear if this could be related to underlying neuromuscular disease.
   -          f/u urine culture
   -          past neuro recs: MRI Cspine at some point to rule out trauma
   from procedures..
   # TBM.  Followed by Dr. [**Last Name (STitle) 4834**].
   -         Bronched earlier this admission with intact stent.  Unclear
   on plans for stent given lack of symptomatic improvement; ? possible
   removal in future.  IP following.
   # DM.  Also on steroids.
   -          continue ISS and DM diet.
   # GERD. Continue PPI
   ICU Care
   Nutrition:
   Comments: advance to regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-29**] 01:46 PM
   Arterial Line - [**2139-10-29**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor tonight vs. tomorrow AM

2139-10-31 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-10-30**] 12:00 PM
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-10-30**] 05:03 PM
   Pantoprazole (Protonix) - [**2139-10-30**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-31**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 108 (75 - 135) bpm
   BP: 144/82(96) {135/75(48) - 158/96(113)} mmHg
   RR: 21 (12 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,130 mL
                                                                    220 mL
   PO:
                                                                  1,500 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,340 mL
                                                                    220 mL
   Total out:
                                                                  1,535 mL
                                                                  1,270 mL
   Urine:
                                                                  1,535 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,595 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/77/54/37/13
   NIF: -80 cmH2O
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, , Oriented (to): x3,
   Movement: all ext
   Labs / Radiology
   11.3 g/dL
   386 K/uL
   136 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.1 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   36.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
                             [**2139-10-28**]  12:35 PM
                             [**2139-10-29**]  02:35 PM
                             [**2139-10-29**]  02:44 PM
                             [**2139-10-29**]  06:52 PM
                             [**2139-10-30**]  04:32 AM
                             [**2139-10-30**]  05:02 AM
                             [**2139-10-30**]  02:31 PM
                             [**2139-10-31**]  03:04 AM
   WBC
   10.8
   16.9
   13.5
   11.4
   Hct
   38.6
   36.5
   34.4
   36.8
   Plt
   387
   322
   289
   386
   Cr
   0.6
   0.6
   0.7
   TCO2
   39
   39
   40
   40
   39
   45
   Glucose
   154
   183
   136
   Other labs: PT / PTT / INR:13.7/25.7/1.2, ALT / AST:16/15, Alk Phos / T
   Bili:54/0.1, Differential-Neuts:96.8 %, Lymph:1.6 %, Mono:1.0 %,
   Eos:0.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.2 g/dL, LDH:219 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   CXR [**10-31**]: increasingly vol ovlerloaded with fluid in the fissure and
   right/left pleural effusion. In addition LLL atelectasis
   Assessment and Plan
   54 yo female with hx of MG s/p stenting for TBM admitted with
   progressive DOE and hypercarbic respiratory failure , and its unclear
   whether this is a exacerbation of the MG or med related. At least in
   part her hypercarbia is [**1-24**] her refusal to wear BiPAP at night for her
   sleep disordered breathing which perhaps makes her more sensitive to
   medications.
   >Respiratory failure:  she has baseline hypercarbia with CO2 in the
   70mmHg range which is normally well compensated by pH. When she was
   initially admitted [**10-27**] we thought a part of her progressive acidosis
   was [**1-24**] non compliance with home BiPAP as well as loss of HCO3 from
   diarrhea. It is again unclear from this admission whether her
   decompensation was related to medications(benzo) vs worsening MG.
   Notably her stent is clear an is unlikely to be contributing to her
   acute component. Her refusal to wear her BiPAP as scheduled for
   overnights with her sleep disordered breathing complicates her
   acid-base status and pre-disposes her to elevated CO2 levels.
   - intermittent BiPap to target a goal pH of >7.35.  ideally she would
   wear BiPAP at night but she has continually refused to wear this at
   night despite trialing different masks and machines.
   - Volume goal 500 cc out.
    Heart rate: she has marked tachycardia with even slight movement. This
   is unrelated to her volume status, has a neg Chest CT for PE. It
   appears to be related to autonomic dysfunction.
   MG: Neuro team conts to follow and do not think this component is
   related to an MG flare.  Now s/p three doses of IVIG
    -          cont home dose immunosuppression (cell cept, Azathioprine
   and prednisone) and prophylaxis
   UTI: Klebsiella in the urine (Cipro [**Last Name (un) **]) on Ciprofloxacin [**10-30**] day
   1(WBC trending down, also stopped high dose steroids) for 7 day course
    Anxiety: hold on further benzodiazepines for now
   ICU Care
   Nutrition:
   Comments: reg
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-29**] 01:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2139-10-31 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-10-30**] 12:00 PM
   Neuro: no new recs, but do not feel that she is having a myasthenia
   crisis
   Would only wear bipap for a few hours overnight
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2139-10-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-10-30**] 05:03 PM
   Pantoprazole (Protonix) - [**2139-10-30**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-31**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 108 (75 - 135) bpm
   BP: 144/82(96) {135/75(48) - 158/96(113)} mmHg
   RR: 21 (12 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,130 mL
                                                                    220 mL
   PO:
                                                                  1,500 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,340 mL
                                                                    220 mL
   Total out:
                                                                  1,535 mL
                                                                  1,270 mL
   Urine:
                                                                  1,535 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,595 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/77/54/37/13
   NIF: -80 cmH2O
   PaO2 / FiO2: 135
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   386 K/uL
   11.3 g/dL
   136 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.1 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   36.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2139-10-28**]  02:57 AM
                             [**2139-10-28**]  05:04 AM
                             [**2139-10-28**]  12:35 PM
                             [**2139-10-29**]  02:35 PM
                             [**2139-10-29**]  02:44 PM
                             [**2139-10-29**]  06:52 PM
                             [**2139-10-30**]  04:32 AM
                             [**2139-10-30**]  05:02 AM
                             [**2139-10-30**]  02:31 PM
                             [**2139-10-31**]  03:04 AM
   WBC
   10.8
   16.9
   13.5
   11.4
   Hct
   38.6
   36.5
   34.4
   36.8
   Plt
   387
   322
   289
   386
   Cr
   0.6
   0.6
   0.7
   TCO2
   39
   39
   40
   40
   39
   45
   Glucose
   154
   183
   136
   Other labs: PT / PTT / INR:13.7/25.7/1.2, ALT / AST:16/15, Alk Phos / T
   Bili:54/0.1, Differential-Neuts:96.8 %, Lymph:1.6 %, Mono:1.0 %,
   Eos:0.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.2 g/dL, LDH:219 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   54 F with obesity, myasthenia [**Last Name (un) 3383**], anxiety, tracheomalacia s/p
   tracheal stenting 10 days PTA; initially admitted to MICU  with
   generalized weakness; now transfer back to MICU with dyspnea,
   significantly worsened weakness and severe hypercarbic respiratory
   failure, possible myasthenic crisis.
  Hypercarbic respiratory failure.  Differential of  muscle weakness
   (from myasthenia or other cause) vs medication effect (very small doses
   of clonazepam, but is significantly affected low doses in past.
   Received flumazenil and seemed to improve (vs. improvement from control
   of pCO2 with bipap).  Patient retains CO2 at baseline, most notable at
   nighttime and supposed to be on nighttime bipap.  Intermittent apnea
   while on bipap supports oversedation as cause; however did
tire
 after
   off bipap yesterday evening.
   -          bipap overnight; NC/FM during daytime.
   -          No benzos or sedatives; utilize other forms of anxiety
   management.
   -          Continue to monitor for muscular weakness with NIFs and VCs
 NIFs consistently -80; though VC have been low (500ish today), likely
   reflective of effort (has been able to count [**1-21**] with very poor VCs).
   -          Treatment of myasthenia below.
   -           check ABG now.
   # Myasthenia [**Last Name (un) 3383**], ?crisis.  Initially noted neck muscle weakness and
   breathing without ocular or pharyngeal symptoms.  Today with
   significant ptosis on exam and c/o diplopia earlier today, though hard
   to say if this is due to myasthenia or CO2 narcosis.
   -          appreciate neuro following.
   -          IVIG again today (3^rd dose); unclear if plasmapheresis
   offers additional benefit.
   -          Per neuro, additional steroids unlikely to be of benefit
   unless needed for non-myasthenia standpoint. Change back to baseline
   prednisone dosing.
   -          Continue mestinon, cellcept.  Bactrim ppx.
   -          Avoid BB, CCB, quinolones due to potential exacerbation of
   MG.
   # Hypotension.  SBP dropped transiently to 70s following MICU
   admission.  Unclear etiology, one liter IV NS given.  Once Aline placed
   (and since) BPs in 110s - ?true hypotension.  If true, ddx includes med
   effect, sepsis, positive pressure, losses with history of diarrhea.
   Completely resolved overnight.
   #   ANXIETY. Severe impairments from anxiety.  In process of getting
   set up with therapist as outpatient.  On SSRI; issues with benzos as
   above.  Psych consult earlier this admit.
   -          no further benzos.
   -          Continue SSRI
   # UTI: urine culture growing Klebsiella.  Course of cipro.
   # Tachycardia.  Sinus.  Reports this is her baseline; past notes
   document anywhere from 80-130.  Improved into 80s when less anxious and
   resting.  No suspicion for withdrawal, appears euvolemic, PE ruled
   out.  Up to 140s with minimal exertion, but maintaining 80s at rest.
   -                continue to monitor rates
 Urinary incontinence.  Chronic problem with recent worsening.
   Unclear if this could be related to underlying neuromuscular disease.
   -          f/u urine culture
   -          past neuro recs: MRI Cspine at some point to rule out trauma
   from procedures..
   # TBM.  Followed by Dr. [**Last Name (STitle) 4834**].
   -         Bronched earlier this admission with intact stent.  Unclear
   on plans for stent given lack of symptomatic improvement; ? possible
   removal in future.  IP following.
   # DM.  Also on steroids.
   -          continue ISS and DM diet.
   # GERD. Continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-29**] 01:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: